US05447957
b) Methyl 2-(2-nitro-4-trifluoromethylphenoxy)-5-(1,1,3,3-tetramethylbutyl)benzoate
Methyl 2-hydroxy-5-(1,1,3,3-tetramethylbutyl)benzoate (520 mg, 0.002 mol), 4-chloro-3-nitrobenzotrifluoride (442 μL, 0.003 mol) and potassium carbonate were mixed in dimethylformamide (20 mL) at 150° C., under argon, for 16 h. The mixture was filtered, the solvent was evaporated and the residue flash chromatographed (silica gel, ethyl acetate/hexane) to yield the title compound. 1H NMR (250 MHz, (CD3)2SO) δ8.38 (d, 1H), 7.98 (d, 1H), 7.89 (dd, 1H), 7.78 (dd, 1H), 7.28 (d, 1H), 6.87 (d, 1H) 3.65 (s, 3H), 3.29 (s, 2H), 1.79 (s, 3H), 1.38 (s, 6H), 0.68 (s, 6H).

reactant | Methyl 2-hydroxy-5-(1,1,3,3-tetramethylbutyl)benzoate | 0.002 mol, 520 mg | OC1=C(C(=O)OC)C=C(C=C1)C(CC(C)(C)C)(C)C | C16H24O3
reactant | 4-chloro-3-nitrobenzotrifluoride | 0.003 mol, 442 μL | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Methyl 2-(2-nitro-4-trifluoromethylphenoxy)-5-(1,1,3,3-tetramethylbutyl)benzoate | [N+](=O)([O-])C1=C(OC2=C(C(=O)OC)C=C(C=C2)C(CC(C)(C)C)(C)C)C=CC(=C1)C(F)(F)F | C23H26F3NO5
